US09029538B2
3-(4-Fluoro-phenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-isopropyl-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-isopropyl-phenylamine and 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=165-167° C.; LCMS m/z=613 (M+1); 1H NMR (CDCl3) δ: 10.86 (s, 1H), 8.72 (s, 1H), 8.46 (d, 1H, J=5.5 Hz), 7.66 (dd, 1H, J=2.5, 8 Hz), 7.63 (d, 1H, J=2 Hz), 7.60 (s, 1H), 7.44 (s, 1H), 7.27-7.25 (m, 3H), 7.05 (d, 1H, J=9 Hz), 6.37 (d, 1H, J=5.5 Hz), 4.98 (p, 1H, J=8 Hz), 4.06 (s, 6H), 3.09 (p, 1H, J=8 Hz), 1.5 (d, 6H, J=7 Hz), 1.18 (d, 6H, J=7 Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-isopropyl-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)C(C)C | C20H22N2O3
reactant | 3-(4-fluorophenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)C(C)C)=O | C14H13FN2O4
product | 3-(4-Fluoro-phenyl)-1-isopropyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-isopropyl-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)C(C)C)=O)C1=CC=C(C=C1)F)=O)C(C)C | C34H33FN4O6
